US07790714B2
Esterification: To a suspension of (S)-7-hydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid dehydrate (109 mmol) in methanol (150 mL) was added hydrochloric acid (27 ml, of 4M solution in dioxane.) at r.t and the reaction mixture was refluxed for 4 h. The mixture was concentrated, resuspeneded in 150 mL of MeOH and hydrochloric acid (27 mL of 4M solution in dioxane.) added. The mixture refluxed for 4 h and was concentrated under reduced pressure. The residue was triturated with ether, filtered and washed with ether to give (S)-7-hydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester hydrochloride salt (25.1 g). 1H NMR (400 MHz, DMSO d6): 10.1 (m, 2H), 9.62 (s, 1H), 7.03 (d, 1H), 6.7 (m, 1H), 6.26 (d, 1H), 4.48 (m, 1H), 4.21 (s, 2H), 3.77 (s, 3H), 3.17-2.96 (m, 2H).

reactant | (S)-7-hydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid | 109 mmol | OC1=CC=C2C[C@H](NCC2=C1)C(=O)O | C10H11NO3
reactant | hydrochloric acid | 4M, 27 ml | Cl | ClH
reactant | methanol | 150 mL | CO | CH4O
product | (S)-7-hydroxy-1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid methyl ester hydrochloride salt | 25.1 g | Cl.COC(=O)[C@H]1NCC2=CC(=CC=C2C1)O | InChI=1S/C11H13NO3.ClH/c1-15-11(14)10-5-7-2-3-9(13)4-8(7)6-12-10;/h2-4,10,12-13H,5-6H2,1H3;1H/t10-;/m0./s1
